US06423713B1
4-[3-(3-methylphenyl)-1H-pyrazol-4-yl]pyrimidine
This compound was prepared by the same procedure as described for Example A-208 except that 1-methyl-3-(4′-pyrimidinylacetyl)benzene (prepared as set forth in Step 1 of Example A-19 from 4-methyl-pyrimidine and methyl 3-methylbenzoate) was used in place of 4-fluorobenzoyl-4-pyridinyl methane.

reactant | A-208 | CC[C@H](C)[C@@H](C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(=O)O)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)[C@H](CO)NC(=O)[C@H](C)NC(=O)[C@H](C)N | C50H90N16O17
reactant | 4-methyl-pyrimidine | CC1=NC=NC=C1 | C5H6N2
reactant | methyl 3-methylbenzoate | CC=1C=C(C(=O)OC)C=CC1 | C9H10O2
reactant | 4-fluorobenzoyl-4-pyridinyl methane | FC1=CC=C(C(=O)CC2=CC=NC=C2)C=C1 | C13H10FNO
product | 4-[3-(3-methylphenyl)-1H-pyrazol-4-yl]pyrimidine | CC=1C=C(C=CC1)C1=NNC=C1C1=NC=NC=C1 | C14H12N4
